US04496590
2-(4-Benzyloxyphenylamino)benzoic acid [X; R=H, OR°=4-OCH2C6H5, R"=H] was prepared from 2-chlorobenzoic acid and 4-benzyloxyaniline hydrochloride according to the procedure of Example 1A, part (a), and the crude product was used directly in the following reaction.

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 4-benzyloxyaniline hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
product | 2-(4-Benzyloxyphenylamino)benzoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C20H17NO3
